US04892578
This compound was prepared in a manner analogous to that of Example 1, Step C, using 4.0 grams (0.016 mole) of 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone and 2.6 grams (0.016 mole) of homophthalic anhydride in 150 mL of tetrahydrofuran. The reaction mixture was concentrated under reduced pressure to a residual oil. The oil was dissolved in acetone, and petroleum ether was added. The resultant solid was collected by filtration and was recrystallized from acetone/water to yield 3.9 grams of 2-[[2-chloro-4-[(2-carboxyphenylmethyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 194°-196° C.

reactant | 2-[(4-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.016 mole, 4.0 grams | NC1=CC(=C(C=C1)CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
reactant | homophthalic anhydride | 0.016 mole, 2.6 grams | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-[[2-chloro-4-[(2-carboxyphenylmethyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 3.9 grams | ClC1=C(C=CC(=C1)NC(=O)CC1=C(C=CC=C1)C(=O)O)CN1OCC(C1=O)(C)C | C21H21ClN2O5
